US05442075
Production of 2-n-propyl-3,5-dihydroimidazol-4-one
17.39 g (138 mmol) of glycine methyl ester hydrochloride was added to a solution of sodium hydroxide (5.56 g, 139 mmol) in methanol (55 ml) at 0° C. After 15 minutes, 14.50 g (content 96.3 percent, 138 mmol) of butanimidic acid methyl ester was instilled in the white suspension for 8 minutes. The mixture was stirred for 3 hours at room temperature and then concentrated by evaporation on a Rotavapor. The residue was mixed with CH2Cl2 (250 ml) and the resultant suspension was filtered. The filtrate was concentrated by evaporation on a Rotavapor, again mixed with CH2Cl2 (250 ml) and filtered again. After removal of the solvent, the title compound was obtained (15.13 g, content>95 percent according to 1H-NMR, 83 percent yield). Other data concerning the product was:

reactant | glycine methyl ester hydrochloride | 138 mmol, 17.39 g | Cl.COC(CN)=O
reactant | sodium hydroxide | 139 mmol, 5.56 g | [OH-].[Na+]
reactant | butanimidic acid methyl ester | 138 mmol, 14.50 g | COC(CCC)=N | C5H11NO
solvent | methanol | 55 ml | CO | CH4O
product | 2-n-propyl-3,5-dihydroimidazol-4-one | C(CC)C1=NCC(N1)=O | C6H10N2O
